US04032544
3-Cyano-7,8-dimethyl-3-hydroxycoumarin monohydrate
3-Cyano-7,8-dimethyl-4-hydroxycoumarin monohydrate, m.p. (EtOH - pet. ether) 255°-6°, (Found; C, 62.04; H, 4.80; N, 6.04. C12H9NO3.H 2 O requires C, 61.79; H, 4.76; N, 6.01) was prepared from 2,3-dimethylphenol via 3,4-dimethylsalicylic acid (m.p. 192°-3°), 2-acetoxy-3,4-dimethylbenzoic acid (m.p. 142°-4°) and 2 -acetoxy-3,4-dimethylbenzoyl chloride by an analogous procedure to that described in Example 10.

reactant | 3-Cyano-7,8-dimethyl-4-hydroxycoumarin monohydrate | O.C(#N)C=1C(OC2=C(C(=CC=C2C1O)C)C)=O
reactant | 2,3-dimethylphenol | CC1=C(C=CC=C1C)O | C8H10O
reactant | 3,4-dimethylsalicylic acid | CC1=C(C(C(=O)O)=CC=C1C)O | C9H10O3
reactant | 2-acetoxy-3,4-dimethylbenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=CC(=C1C)C | C11H12O4
reactant | 2 -acetoxy-3,4-dimethylbenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=CC(=C1C)C | C11H11ClO3
product | 3-Cyano-7,8-dimethyl-3-hydroxycoumarin monohydrate | O.C(#N)C1(C(OC2=C(C(=CC=C2C1)C)C)=O)O | InChI=1S/C12H11NO3.H2O/c1-7-3-4-9-5-12(15,6-13)11(14)16-10(9)8(7)2;/h3-4,15H,5H2,1-2H3;1H2
